US06380218B1
N-[4-(1-Hydroxy-1-methyl-ethyl)-benzyl]-2-(3-methylsulfanyl-phenoxy)-nicotinamide
To a stirred solution 2-(3-Methylsulfanyl-phenoxy)-nicotinic acid (2.5 grams, 9.58 mmole), 2-(4-Aminomethyl-phenyl)-propan-2-ol (1.896 grams, 11.50 mmole) and 1-hydroxybenzotriazole hydrate (1.55 grams, 11.50 mmole) in dry dimethylformamide (60 ml) was added 1-(3-dimethylamino)-propyl)-3-ethylcarbodiimide hydrochloride (2.39 grams, 12.45 mmole) and stirred over night. The mixture was diluted with 300 ml water and extracted with ethyl acetate. The combined organics were washed with water and brine, dried over MgSO4, filtered and concentrated to give a yellow oil that was purified by chromatography on silica eluting with 3.5% methanol/methylene chloride to give a white solid. Recrystalization from ethyl acetate/hexane gave a solid (0.550 g). M.P. 107-109° C.; Anal. calcd. for C23H24N2O3S: C, 67.62; H, 5.92; N, 6.86. Found: C, 67.53, H, 5.76; N, 6.91.

reactant | 2-(3-Methylsulfanyl-phenoxy)-nicotinic acid | 9.58 mmole, 2.5 grams | CSC=1C=C(OC2=C(C(=O)O)C=CC=N2)C=CC1 | C13H11NO3S
reactant | 2-(4-Aminomethyl-phenyl)-propan-2-ol | 11.50 mmole, 1.896 grams | NCC1=CC=C(C=C1)C(C)(C)O | C10H15NO
reactant | 1-hydroxybenzotriazole hydrate | 11.50 mmole, 1.55 grams | O.ON1N=NC2=C1C=CC=C2
reactant | 3-ethylcarbodiimide hydrochloride | 12.45 mmole, 2.39 grams | Cl.C(C)N=C=N
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | N-[4-(1-Hydroxy-1-methyl-ethyl)-benzyl]-2-(3-methylsulfanyl-phenoxy)-nicotinamide | 0.550 g | OC(C)(C)C1=CC=C(CNC(C2=C(N=CC=C2)OC2=CC(=CC=C2)SC)=O)C=C1 | C23H24N2O3S
